US08865713B2
Step C: 1-[6-chloro-5-mercapto-1-(2-methoxy-ethoxymethyl)-1H-benzoimidazol-2-yl]-1H-pyrazole-4-carboxylic acid ethyl ester.
To a stirred cooled (0° C.) solution of 1-[6-chloro-1-(2-methoxy-ethoxymethyl)-5-(2-nitro-phenyldisulfanyl)-1H-benzoimidazol-2-yl]-1H-pyrazole-4-carboxylic acid ethyl ester (2.99 g, 5.29 mmol) and EtOH (24 mL) was added dropwise a solution of NaBH4 (0.729 g, 19.3 mmol), EtOH (24 mL), and water (10 mL) over 10 minutes. The reaction mixture was stirred for 15 min and additional NaBH4 (0.486 g, 12.8 mmol) in EtOH (16 mL) and water (6.7 mL) was added. The reaction mixture was stirred for an additional 30 min and then partitioned between DCM (200 mL) and water (200 mL). The aqueous layer was acidified to pH 5 with 1M HCl and the product was extracted with DCM (3×300 mL). The organic layers were combined, dried, filtered, and concentrated under reduced pressure. The residue was purified (FCC) (5-80% EtOAc/hexanes) to yield the titled compound (1.27 g, 48%) as a 2:1 mixture of regioisomers. MS (ESI/CI): mass calcd. for C17H19ClN4O4S, 410.1; m/z found, 411.1 [M+H]+. 1H NMR (600 MHz, CDCl3): 8.85-8.84 (m, 2H), 8.17 (s, 2H), 7.75 (s, 0.67H), 7.72 (s, 1.33H), 7.68 (s, 1.33H), 7.64 (s, 0.67H), 6.10-6.09 (m, 4H), 4.36 (q, J=7.1 Hz, 4H), 4.02 (s, 0.67H), 3.93 (s, 1.33H), 3.66-3.62 (m, 4H), 3.47-3.44 (m, 4H), 3.31-3.30 (m, 6H), 1.38 (t, J=7.1 Hz, 6H). Large-scale synthesis of the titled compound also provided a dimer by-product, where the dimer linkage is thru the sulfur bond forming a disulfide intermediate of 1-[6-chloro-5-mercapto-1-(2-methoxy-ethoxymethyl)-1H-benzoimidazol-2-yl]-1H-pyrazole-4-carboxylic acid ethyl ester, this by-product was isolated but not tested: MS (ESI/CI): mass calcd. for C34H36Cl2N8O8S2, 818.1; m/z found, 819.1 [M+H]+.

reactant | 1-[6-chloro-1-(2-methoxy-ethoxymethyl)-5-(2-nitro-phenyldisulfanyl)-1H-benzoimidazol-2-yl]-1H-pyrazole-4-carboxylic acid ethyl ester | 5.29 mmol, 2.99 g | C(C)OC(=O)C=1C=NN(C1)C1=NC2=C(N1COCCOC)C=C(C(=C2)SSC2=C(C=CC=C2)[N+](=O)[O-])Cl | C23H22ClN5O6S2
reactant | NaBH4 | 19.3 mmol, 0.729 g | [BH4-].[Na+]
reactant | NaBH4 | 12.8 mmol, 0.486 g | [BH4-].[Na+]
solvent | EtOH | 16 mL | CCO | C2H6O
solvent | water | 6.7 mL | O | H2O
solvent | water | 10 mL | O | H2O
solvent | EtOH | 24 mL | CCO | C2H6O
solvent | EtOH | 24 mL | CCO | C2H6O
product | 1-[6-chloro-5-mercapto-1-(2-methoxy-ethoxymethyl)-1H-benzoimidazol-2-yl]-1H-pyrazole-4-carboxylic acid ethyl ester | 1.27 g, 48% | C(C)OC(=O)C=1C=NN(C1)C1=NC2=C(N1COCCOC)C=C(C(=C2)S)Cl | C17H19ClN4O4S
